### PR TITLE
itv_bound comparison with -oo/+oo

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

I found myself wanting those lemmas when reasoning about bounds of intervals of real numbers
(btw, similar-looking lemmas exist in MathComp-Analysis to deal with extended real numbers).

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/interval.v [hunk 1]
```diff
@@ -217,6 +217,18 @@ Proof. by rewrite /<=%O /= lteifxx. Qed.
 Lemma bound_ltxx c1 c2 x : (BSide c1 x < BSide c2 x) = (c1 && ~~ c2).
 Proof. by rewrite /<%O /= lteifxx. Qed.
 
+Lemma le_pinfty_eq b : (+oo <= b) = (b == +oo).
```
Comment (pi8027) [inline mathcomp/algebra/interval.v:220]: `ge_pinftyE` ?

File: mathcomp/algebra/interval.v [hunk 2]
```diff
@@ -217,6 +217,18 @@ Proof. by rewrite /<=%O /= lteifxx. Qed.
...
+Proof. by move: b => [|[]]. Qed.
+
+Lemma le_minfty_eq b : (b <= -oo) = (b == -oo).
```
Comment (pi8027) [inline mathcomp/algebra/interval.v:223]: `le_minftyE`? Also I prefer `ninfty` rather than `minfty` (`p`/`n` stand for positive and negative).

File: mathcomp/algebra/interval.v [hunk 3]
```diff
@@ -217,6 +217,18 @@ Proof. by rewrite /<=%O /= lteifxx. Qed.
...
+Proof. by case: b => // - []. Qed.
+
+Lemma pinfty_lt b : (+oo < b) = false.
```
Comment (pi8027) [inline mathcomp/algebra/interval.v:226]: `gt_pinfty` would be more uniform.

File: mathcomp/algebra/interval.v [hunk 4]
```diff
@@ -217,6 +217,18 @@ Proof. by rewrite /<=%O /= lteifxx. Qed.
...
+Proof. by []. Qed.
+
+Lemma minfty_lt b : (b < -oo) = false.
```
Comment (pi8027) [inline mathcomp/algebra/interval.v:229]: Similarly, `lt_m(n)infty`.

**Review by pi8027 — APPROVED** [review]
LGTM

File: mathcomp/algebra/interval.v [hunk 5]
```diff
@@ -217,6 +217,14 @@ Proof. by rewrite /<=%O /= lteifxx. Qed.
 Lemma bound_ltxx c1 c2 x : (BSide c1 x < BSide c2 x) = (c1 && ~~ c2).
 Proof. by rewrite /<%O /= lteifxx. Qed.
 
+Lemma ge_pinftyE b : (+oo <= b) = (b == +oo). Proof. by move: b => [|[]]. Qed.
+
+Lemma le_ninftyE b : (b <= -oo) = (b == -oo). Proof. by case: b => // - []. Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:222]: I was a bit quick to merge, there is no need for an `E` suffix in the name here. (this is generally reserverd for `defE` where `def` is a single definition symbol)
